US04737488
N-(D-Ribopyranosyl)dodecylamine
The preparation is analogous to Example 1, starting from 15 g of D-ribose and 18 g of dodecylamine.

reactant | D-ribose | 15 g | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | dodecylamine | 18 g | C(CCCCCCCCCCC)N | C12H27N
product | N-(D-Ribopyranosyl)dodecylamine | C1([C@H](O)[C@H](O)[C@H](O)CO1)CCCCCCCCCCCCN | C17H35NO4
